US08008298B2
To a solution of 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (95 mg) in 1.5 mL of DMF was added PyBOP (128 mg) followed by tert-Butyl amine (70 mg). After stirring for 2 h, the mixture was partitioned between water and diethylether. The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated. Flash chromatography (4:1 Hexanes:ethylacetate) afforded 70 mg of 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide.

reactant | 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | 95 mg | CC1=C(C=2C(=NC=C(N2)C2=CC(=C(C(=C2)OC)OC)OC)N1COCC[Si](C)(C)C)C(=O)O | C23H31N3O6Si
reactant | PyBOP | 128 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | tert-Butyl amine | 70 mg | C(C)(C)(C)N | C4H11N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide | 70 mg | C(C)(C)(C)NC(=O)C1=C(N(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)COCC[Si](C)(C)C)C | C27H40N4O5Si
